US05616586
2-Methoxycarbonyl-3-methylquinoline (30 g, 0.149 mol) in acetic acid (300 mL) was hydrogenated over platinum oxide (1 g) under atmospheric pressure of hydrogen at room temperature until the theoretical amount of hydrogen was consumed. The mixture was passed through celite and concentrated in vacuo. The residue was purified by silica gel column chromatography with 20:1 to 10:1 hexane/ethyl acetate to give 23.93 g of cis-2-methoxycarbonyl-3-methyltetrahydroquinoline (78%): 1H NMR (270 MHz, CDCl3) d 6.99 (m, 2H), 6.64 (t, 1H, J=7.9 Hz), 6.58 (d, 1H, J=7.9 Hz), 4.34 (s, 1H), 4.09 (t, 1H, J=2.5 Hz), 3.06 (dd, 1H, J =16.9, 5.8 Hz), 2.55 (m, 1H), 2.50 (dd, 1H, J=16.9, 3.3 Hz), 0.88 (d, 3H, J=6.9 Hz).

reactant | 2-Methoxycarbonyl-3-methylquinoline | 0.149 mol, 30 g | COC(=O)C1=NC2=CC=CC=C2C=C1C | C12H11NO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 1 g | [Pt]=O
product | cis-2-methoxycarbonyl-3-methyltetrahydroquinoline | 23.93 g, 78% | COC(=O)[C@@H]1NC2=CC=CC=C2C[C@@H]1C | C12H15NO2
